US05250547
A mixture of 6-nitro-2,2-dimethyl-3-bromomethyl-4-(2-oxo-1,2-dihydropyridin-1-yl)-2H-1-benzopyran (0.30 g, 7.7 mmol), N-methylhydroxylamine hydrochloride (0.64 g, 7.7 mmol) and potassium carbonate (0.97 g, 7.7 mmol) in ethanol (10 ml) was heated at reflux for 30 minutes. Water was added and the mixture extracted with dichloromethane. The organic phase was separated and the solvent evaporated under reduced pressure. The residue was washed with diethyl ether, affording 0.19 g of 6-nitro-2,2-dimethyl-3-(N-methyl-N-hydroxyamino)methyl-4-(2-oxo-1,2-dihydropyridin-1-yl)-2H-1-benzopyran, m.p. 159° C.

reactant | 6-nitro-2,2-dimethyl-3-bromomethyl-4-(2-oxo-1,2-dihydropyridin-1-yl)-2H-1-benzopyran | 7.7 mmol, 0.30 g | [N+](=O)([O-])C=1C=CC2=C(C(=C(C(O2)(C)C)CBr)N2C(C=CC=C2)=O)C1 | C17H15BrN2O4
reactant | N-methylhydroxylamine hydrochloride | 7.7 mmol, 0.64 g | Cl.CNO
reactant | potassium carbonate | 7.7 mmol, 0.97 g | C([O-])([O-])=O.[K+].[K+]
reactant | Water | O | H2O
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 6-nitro-2,2-dimethyl-3-(N-methyl-N-hydroxyamino)methyl-4-(2-oxo-1,2-dihydropyridin-1-yl)-2H-1-benzopyran | 0.19 g | [N+](=O)([O-])C=1C=CC2=C(C(=C(C(O2)(C)C)CN(O)C)N2C(C=CC=C2)=O)C1 | C18H19N3O5
